US08476434B2
3-Nitro-4-(trifluoromethyl)benzoic acid (10 g, 43 mmol) was taken up in 100 ml of ethanol and sulfuric acid (11 ml) was added to the mixture. The reaction was heated to reflux for 12 hours. The volatiles were removed in vacuo. The residue obtained was diluted with ethyl acetate and water. The layers were separated and the organic layer was washed with an aqueous solution of saturated sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate and the volatiles removed in vacuo to give ethyl 3-nitro-4-(trifluoromethyl)benzoate a clear yellow oil.

reactant | 3-Nitro-4-(trifluoromethyl)benzoic acid | 43 mmol, 10 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1C(F)(F)F | C8H4F3NO4
reactant | sulfuric acid | 11 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl 3-nitro-4-(trifluoromethyl)benzoate | [N+](=O)([O-])C=1C=C(C(=O)OCC)C=CC1C(F)(F)F | C10H8F3NO4
